US07449467B2
Preparation of N-[(1R,3S)-3-isopropyl-3-(4-[3-(trifluoromethyl)phenyl]piperidin-1-ylcarbonyl)cyclopentyl]tetrahydro-2H-pyran-4-amine
To a solution of N-((1R,3S)-3-isopropyl-3-[4-[3-(trifluoromethyl)phenyl]-3,6-dihydropyridin-1(2H)-yl]carbonylcyclopentyl)tetrahydro-2H-pyran-4-amine (12.0 mg, 0.026 mmol) in methanol (1.0 mL) under N2 was added palladium (5.5 mg) (10% dry weight on wet activated carbon). The reaction mixture was stirred at room temperature under H2 (1 atm) overnight (22 h) and filtered through celite. The celite was washed with methylene chloride and the filtrate was concentrated to give the desired product (11.9 mg, 99%). MS calculated for C26H38F3N2O2: (M+H) 467.3; found 467.2.

reactant | N-((1R,3S)-3-isopropyl-3-[4-[3-(trifluoromethyl)phenyl]-3,6-dihydropyridin-1(2H)-yl]carbonylcyclopentyl)tetrahydro-2H-pyran-4-amine | 0.026 mmol, 12.0 mg | C(C)(C)[C@]1(C[C@@H](CC1)NC1CCOCC1)C(=O)N1CCC(=CC1)C1=CC(=CC=C1)C(F)(F)F | C26H35F3N2O2
solvent | methanol | 1.0 mL | CO | CH4O
catalyst | palladium | 5.5 mg | [Pd] | Pd
product | N-[(1R,3S)-3-isopropyl-3-(4-[3-(trifluoromethyl)phenyl]piperidin-1-ylcarbonyl)cyclopentyl]tetrahydro-2H-pyran-4-amine | 11.9 mg, 99% | C(C)(C)[C@]1(C[C@@H](CC1)NC1CCOCC1)C(=O)N1CCC(CC1)C1=CC(=CC=C1)C(F)(F)F | C26H37F3N2O2
